US08071592B2
(b) 1-[2-(4-Amino-1-piperidinyl)ethyl]-7-(methyloxy)-1,5-naphthyridin-2(1H)-one dihydrochloride
A solution of 1,1-dimethylethyl (1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)carbamate (5.453 g, 13.565 mmol) in chloroform (30 ml) was added 4M HCl in 1,4-dioxane (30 ml) and the reaction was stirred at rt for 0.5 h before addition of MeOH (30 ml). The reaction was stirred for a further 1 h before evaporation to provide the desired compound as a slightly impure white solid (5.323 g, 105%), which was used without further purification.

reactant | 1,1-dimethylethyl (1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)carbamate | 13.565 mmol, 5.453 g | COC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C21H30N4O4
reactant | HCl | 4M | Cl | ClH
reactant | MeOH | 30 ml | CO | CH4O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(4-Amino-1-piperidinyl)ethyl]-7-(methyloxy)-1,5-naphthyridin-2(1H)-one dihydrochloride | Cl.Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O | InChI=1S/C16H22N4O2.2ClH/c1-22-13-10-15-14(18-11-13)2-3-16(21)20(15)9-8-19-6-4-12(17)5-7-19;;/h2-3,10-12H,4-9,17H2,1H3;2*1H
